US08071588B2
A solution of N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (1.0 g, 1.650 mmol), (3-formylphenyl)boronic acid (0.300 g, 2.00 mmol), tetrakis (triphenylphosphine) palladium (0) (0.092 g, 0.08 mmol) and sodium carbonate (0.509 g, 4.8 mmol) in 1,4-dioxane (12 mL) and water (4.00 mL) was microwaved at 140° C. for 30 min. The reaction was diluted with water and EtOAc and the organic layer taken off. The aqueous phase was re-extracted with EtOAc. The combined organic layers were dried over Na2SO4 and solvent was evaporated giving a residue. The crude material was purified on the Chromatotron on silica gel (2000u) eluting with CH2Cl2 (3-6% MeOH) to give N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (861 mg, 83%) as a glassy solid. LC-MS m/z 631.4 (M+H)+, 0.86 min (ret time).

reactant | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 1.650 mmol, 1.0 g | BrC=1C=C(C=CC1Cl)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H34BrClN6O3
reactant | (3-formylphenyl)boronic acid | 2.00 mmol, 0.300 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 4.8 mmol, 0.509 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4.00 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.08 mmol, 0.092 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 861 mg, 83% | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C34H39ClN6O4
